US05663164
STEP A: 1,1-dimethylethyl 2-chloro-3-(2-pyridyl)oxirane carboxylate
4 ml of tert.-butyl dichloroacetate in 15 ml of tetrahydrofuran and 2.6 ml of picolinaldehyde were mixed together and cooled to -20° C. to -25° C. Over 15 minutes at this temperature, 28 ml of potassium tert.-butylate in tetrahydrofuran at 0.9M/l were introduced and the mixture was allowed to warm up to ambient temperature. After 1 hour and 25 minutes, 25 ml of water were added, and extraction was effected with tetrahydrofuran. The organic phase was washed with water saturated with sodium chloride and then dried. The resulting solution containing 1,1-dimethylethyl 2-chloro-3-(2-pyridyl)oxirane carboxylate was held at -25° C. and used for the following step of the synthesis.

reactant | tert.-butyl dichloroacetate | 4 ml | ClC(C(=O)OC(C)(C)C)Cl | C6H10Cl2O2
reactant | water | 25 ml | O | H2O
reactant | picolinaldehyde | 2.6 ml | N1=C(C=CC=C1)C=O | C6H5NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 2-chloro-3-(2-pyridyl)oxirane carboxylate | ClC1(OC1C1=NC=CC=C1)C(=O)OC(C)(C)C | C12H14ClNO3
